US05422211
Synthesis of 2-Ethyl-4-chloroaniline:
2'-Ethyl-4'-chloroacetanilide (31 grams) was heated to reflux in a mixture containing 80 milliliters of ethanol and 55 milliliters of concentrated HCL for about 2.5 hours. After cooling to room temperature, the mixture was basified to a pH of about 8 by an aqueous NaOH solution (20 percent). An oily aniline layer was observed. The mixture was transferred to a separatory funnel and was extracted with ether (3 times 75 milliliters). The ethereal extracts were combined and dried over MgSO4. After filtration, ether was removed under reduced pressure. 2-Ethyl-4-chloroaniline was purified and isolated by a reduced pressure distillation, yield 14.2 grams (58 percent).

reactant | 2'-Ethyl-4'-chloroacetanilide | 31 grams | C(C)C1=C(NC(C)=O)C=CC(=C1)Cl | C10H12ClNO
reactant | NaOH | [OH-].[Na+]
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 80 milliliters | C(C)O | C2H6O
product | 2-Ethyl-4-chloroaniline | C(C)C1=C(N)C=CC(=C1)Cl | C8H10ClN
